US06114394
Combine 1,5,14,18-tetra(t-butoxycarbonyl)-1,5,14,18-tetraazaoctadecane (3.5 g, 0.0053 mol), prepared as in step C or example 1, with potassium t-butoxide (2.7 g, 0.024 mol) and 1-iodobutane (2.57 mL, 0.024 mol) in dimethylformamide (10 mL). Stir the reaction for 18 hours. Concentrate the reaction under vacuum (0.5 mm at 45° C.) and dissolve the residue in ethyl acetate (500 mL). Wash with water (2×100 mL), dry over anhydrous magnesium sulfate, filter and concentrate under vacuum. Purify the residue by flash chromatography (20% ethyl acetate/hexane, silica gel) to provide 1,18-bis-(butyl)-1,5,14,18-tetra(t-butoxycarbonyl)-1,5,14,18-tetraazaoctadecane (1.32 g), Rf =0.36 eluting with 20% ethyl acetate/hexane.

reactant | 1,5,14,18-tetra(t-butoxycarbonyl)-1,5,14,18-tetraazaoctadecane | 0.0053 mol, 3.5 g | C(C)(C)(C)OC(=O)NCCCN(CCCCCCCCN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H66N4O8
reactant | potassium t-butoxide | 0.024 mol, 2.7 g | CC(C)([O-])C.[K+]
reactant | 1-iodobutane | 0.024 mol, 2.57 mL | ICCCC | C4H9I
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 1,18-bis-(butyl)-1,5,14,18-tetra(t-butoxycarbonyl)-1,5,14,18-tetraazaoctadecane | 1.32 g | C(CCC)N(CCCN(CCCCCCCCN(CCCN(C(=O)OC(C)(C)C)CCCC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C42H82N4O8
